US07517889B2
2-Fluoro-4-trifluoromethyl-phenyl acetonitrile (2 g, 9.85 mmol) is hydrogenated with H2 in a balloon, 10% Pd/C (522 mg, 5 mol %) in 95% EtOH (50 mL) containing concentrated hydrochloric acid (1.64 mL) at room temperature for 15 hours. The mixture is filtered and filtrate is concentrated to a solid that is washed with diethyl ether to obtain 2-(2-fluoro-4-trifluoromethyl-phenyl)-ethylamine hydrochloride (1.88 g, 78%) as a solid. LC/MS: 208 (M+H). This compound (1.8 g, 8.7 mmol) is dissolved in EtOH (25 mL) and treated with 4,6-dichloro-2-methoxy-pyrimidine [1.3 g, 7.25 mmol, Intermediate (4)] and sodium bicarbonate (1.52 g, 18.13 mmol). The mixture is heated to reflux for 5 hours. Solid is filtered and EtOH is removed in vacuo. The residue is washed with small amount of DCM to obtain (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(2-fluoro-4-trifluoromethyl-phenyl)-ethyl]-amine (2.59 g, 76%) as a solid. LC/MS: 350 (M+H).

reactant | 2-Fluoro-4-trifluoromethyl-phenyl acetonitrile | 9.85 mmol, 2 g | FC1=C(C=CC(=C1)C(F)(F)F)CC#N | C9H5F4N
reactant | hydrochloric acid | 1.64 mL | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 522 mg | [Pd] | Pd
product | 2-(2-fluoro-4-trifluoromethyl-phenyl)-ethylamine hydrochloride | 1.88 g, 78% | Cl.FC1=C(C=CC(=C1)C(F)(F)F)CCN | InChI=1S/C9H9F4N.ClH/c10-8-5-7(9(11,12)13)2-1-6(8)3-4-14;/h1-2,5H,3-4,14H2;1H
